US09447116B2
(2S)-tert-butoxy[4-(2-fluoro-4-methylphenyl)-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridin-3-yl]acetic acid
The title compound was prepared from Methyl (2S)-tert-butoxy(4-iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridin-3-yl)acetate (Preparation 16, 100 mg, 212 μmol) and 2-(2-fluoro-4-methylphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (Preparation 19, 99 mg, 424 μmol) using the same method as described in Example 44, Step 1 to yield 100 mg, 96%. Material obtained was a mixture of atropisomers, in a 2:1 ratio.

reactant | Methyl (2S)-tert-butoxy(4-iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridin-3-yl)acetate | 212 μmol, 100 mg | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=C2C(=NC1C)SC1=C2CCCC1)I | C19H24INO3S
reactant | 2-(2-fluoro-4-methylphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 424 μmol, 99 mg | FC1=C(C=CC(=C1)C)B1OC(C(O1)(C)C)(C)C | C13H18BFO2
product | (2S)-tert-butoxy[4-(2-fluoro-4-methylphenyl)-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridin-3-yl]acetic acid | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=C2C(=NC1C)SC1=C2CCCC1)C1=C(C=C(C=C1)C)F | C25H28FNO3S
